US07598249B2
4-Benzo[1,3]dioxol-5-ylmethyl-piperazine-1-carboxylic acid pyridin-2-ylamide
The title compound was prepared from pyridin-2-yl-carbamic acid phenyl ester and 1-benzo[1,3]dioxol-5-ylmethyl-piperazine. 1H NMR (400 MHz, CDCl3): 8.18 (d, J=3.9 Hz, 1H), 7.67-7.64 (m, 1H), 6.66-6.64 (m, 2H), 6.54-6.51 (m, 3H), 5.94 (s, 2H), 3.80 (s, 2H), 3.53 (t, J=4.9 Hz, 4H), 2.36 (t, J=4.8 Hz, 4H).

reactant | pyridin-2-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=NC=CC=C1)=O | C12H10N2O2
reactant | 1-benzo[1,3]dioxol-5-ylmethyl-piperazine | O1COC2=C1C=CC(=C2)CN2CCNCC2 | C12H16N2O2
product | 4-Benzo[1,3]dioxol-5-ylmethyl-piperazine-1-carboxylic acid pyridin-2-ylamide | N1=C(C=CC=C1)NC(=O)N1CCN(CC1)CC1=CC2=C(OCO2)C=C1 | C18H20N4O3
